US08912188B2
The solution of methyl 3-[(2S)-2-methylpyrrolidin-1-yl]-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (5.9 g, 20.54 mmol,) in phosphorus oxychloride (100 mL) was stirred overnight at 120° C. in an oil bath. The reaction mixture was concentrated in vacuo and diluted with dichloromethane (500 mL) and ice-water (500 mL), adjusted to pH 7 with NaHCO3 solution. The solution was extracted with dichloromethane (3×200 mL) and the organic layers combined, dried over anhydrous sodium sulfate and concentrated in vacuo to give a residue, which was purified by silica gel column chromatography eluting with 2% ethyl acetate in petroleum ether to afford methyl 2-chloro-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate as a yellow solid (5 g, 80%).

reactant | methyl 3-[(2S)-2-methylpyrrolidin-1-yl]-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 20.54 mmol, 5.9 g | C[C@@H]1N(CCC1)C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C15H17N3O3
reactant | phosphorus oxychloride | 100 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | methyl 2-chloro-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate | 5 g, 80% | ClC1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OC | C15H16ClN3O2
